US05917057
3-(4-hydroxyphenyl)-2,2-dimethylpropanoic acid ethyl ester (12.2 g) was added to a slurry containing 6.46 g of potassium tert-butoxide in 55 ml dry dimethylformamide at 0° C. After 30 minutes, a solution containing 12.6 g of ethyl (α-bromo-ortho-toluate in 15 ml dry dimethylformamide was added and the solution stirred for 2 hours at room temperature, then at 50° C. overnight. Dilution with water, extraction with ether and evaporation left an oil which was purified by HPLC (silica gel, 7:3 dichloromethane-heptane) to give 20.3 g of 2-[4-(2-ethoxycarbonyl-2-methylpropyl)phenoxymethyl]benzoic acid ethyl ester as an oil.

reactant | 3-(4-hydroxyphenyl)-2,2-dimethylpropanoic acid ethyl ester | 12.2 g | C(C)OC(C(CC1=CC=C(C=C1)O)(C)C)=O | C13H18O3
reactant | potassium tert-butoxide | 6.46 g | CC(C)([O-])C.[K+]
reactant | α-bromo-ortho-toluate | BrCC=1C(=CC=CC1)C(=O)[O-]
solvent | dimethylformamide | 55 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 2-[4-(2-ethoxycarbonyl-2-methylpropyl)phenoxymethyl]benzoic acid ethyl ester | 20.3 g | C(C)OC(C1=C(C=CC=C1)COC1=CC=C(C=C1)CC(C)(C)C(=O)OCC)=O | C23H28O5
